US07592358B2
IP 2b. 2,2,2-trifluoro-1-piperidin-4-ylethanol
A suspension of 3.11 g (9.80 mmol) of benzyl 4-(2,2,2-trifluoro-1-hydroxyethyl)piperidine-1-carboxylate and 300 mg Pd/C (10%) in 30 mL of MeOH was hydrogenated at RT and 3 bar hydrogen pressure for 4 hours. The catalyst was filtered off and the filtrate was evaporated down in vacuo. Yield: 1.82 g (quant. yield); C7H12F3NO (M=183.172); calc.: molpeak (M+H)+: 184; found: molpeak (M+H)+: 184; Rf value: 0.20 (silica gel, EtOAc/MeOH/conc. aqueous ammonia 5:5:0.5).

reactant | benzyl 4-(2,2,2-trifluoro-1-hydroxyethyl)piperidine-1-carboxylate | 9.80 mmol, 3.11 g | FC(C(O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)(F)F | C15H18F3NO3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 2,2,2-trifluoro-1-piperidin-4-ylethanol | quant. yield | FC(C(O)C1CCNCC1)(F)F | C7H12F3NO
